US07371748B2
4-Hydroxymethyl-piperidine-1-carboxylic acid [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-amide
Using 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine, phenyl chloroformate and 4-hydroxymethyl-piperidine, the title compound was prepared as white crystals (87% yield). Mp. 202-203.5° C., MS: m/e=406(M+H+).

reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-hydroxymethyl-piperidine | OCC1CCNCC1 | C6H13NO
product | 4-Hydroxymethyl-piperidine-1-carboxylic acid [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCC(CC2)CO)C2CCOCC2 | C20H27N3O4S
